US08236319B2
(Z)-4-(3-carboxy-2-sulfopropylamino)-4-oxobut-2-enoic acid
4-(Tert-butoxycarbonylamino)-3-sulfobutanoic acid (321 mg, 1.13 mmol) was stirred in the mixture of HCl (conc)/Dioxane (1:4, 15 ml) for 30 min, evaporated and coevaporated with EtOH/Toluene (1:1, 4×20 ml) to dryness. To the dryness material was added maleic anhydride (121 mg, 1.23 mmol) and DMA (20 ml) and the mixture was stirred overnight, evaporated and run through C-18 column eluted with water and crystallized with EtOH/Hexane to afford 263 mg (83%) of the title compound. ESI MS 279.8 (M−H). The NMR data are the same through the route with 4-azido-3-sulfobutanoic acid.

reactant | 4-(Tert-butoxycarbonylamino)-3-sulfobutanoic acid | 1.13 mmol, 321 mg | C(C)(C)(C)OC(=O)NCC(CC(=O)O)S(=O)(=O)O | C9H17NO7S
reactant | HCl | Cl | ClH
reactant | Dioxane | 15 ml | O1CCOCC1 | C4H8O2
reactant | maleic anhydride | 1.23 mmol, 121 mg | C1(\C=C/C(=O)O1)=O | C4H2O3
solvent | DMA | 20 ml | CC(=O)N(C)C | C4H9NO
product | (Z)-4-(3-carboxy-2-sulfopropylamino)-4-oxobut-2-enoic acid | 263 mg, 83% | C(=O)(O)CC(CNC(\C=C/C(=O)O)=O)S(=O)(=O)O | C8H11NO8S
